US07501538B2
5-chloro-2-(2-methyl-butylamino)-benzoic acid was prepared from 2-amino-5-chloro-benzoic acid (23.31 mmol, 4.0 g) and 2-methylbutyraldehyde (23.31 mmol, 2.0 g) with sodium triacetoxyborohydride (96.62 mmol, 9.88 g) as per Procedure G (5.0 g).

reactant | 2-amino-5-chloro-benzoic acid | 23.31 mmol, 4.0 g | NC1=C(C(=O)O)C=C(C=C1)Cl | C7H6ClNO2
reactant | 2-methylbutyraldehyde | 23.31 mmol, 2.0 g | CC(C=O)CC | C5H10O
reactant | sodium triacetoxyborohydride | 96.62 mmol, 9.88 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 5-chloro-2-(2-methyl-butylamino)-benzoic acid | ClC=1C=CC(=C(C(=O)O)C1)NCC(CC)C | C12H16ClNO2
